US05886177
Glutaric acid monofluorenylmethyl ester.
Fluorenylmethanol (0.90 g, 4.5 mmol) and dimethylaminopyridine (50 mg) are dissolved in 10 ml dry pyridine. Glutaric anhydride (5.0 mmol) is added and the solution stirred overnight. The solvent is removed under reduced pressure, sodium bicarbonate added (50 ml), the solution extracted with ethyl acetate (50 ml), and the organic layer discarded. The aqueous layer is acidified to pH 2, extracted with ethyl acetate (2×100 ml), washed with brine, and the solvent removed under reduced pressure. The residue is purified by flash chromatography to give the product.

reactant | Fluorenylmethanol | 4.5 mmol, 0.90 g | C1(=CC=CC=2C3=CC=CC=C3CC12)CO | C14H12O
reactant | dimethylaminopyridine | 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Glutaric anhydride | 5.0 mmol | C1(CCCC(=O)O1)=O | C5H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Glutaric acid monofluorenylmethyl ester | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(CCCC(=O)O)=O | C19H18O4
